US05290934
A mixture comprising 7-(3-t-butoxycarbonylamino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (trans form) (120 mg), ethanol (4 ml) and 10% hydrochloric acid (4 ml) is refluxed for 30 minutes After concentrating, the obtained residue is recrystallized from methanol - ethyl acetate to give 7-(3-amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride (trans form) (60 mg), as white powder, m.p. 272°-275° C.

reactant | 7-(3-t-butoxycarbonylamino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 120 mg | C(C)(C)(C)OC(=O)NC1CN(CC1C)C1=C(C(=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)C)F | C24H30FN3O5
reactant | hydrochloric acid | 4 ml | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 7-(3-amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride | 60 mg | Cl.NC1CN(CC1C)C1=C(C(=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)C)F | InChI=1S/C19H22FN3O3.ClH/c1-9-6-22(8-13(9)21)15-5-14-16(10(2)17(15)20)18(24)12(19(25)26)7-23(14)11-3-4-11;/h5,7,9,11,13H,3-4,6,8,21H2,1-2H3,(H,25,26);1H
